US06593333B1
A mixture of 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (23 g) and trifluoroacetic acid (150 ml) was stirred and heated to reflux for 3 hours. The reaction mixture was allowed to cool to ambient temperature. Toluene was added and the mixture was evaporated. The residue was triturated under diethyl ether and then under acetone. The precipitate was collected by filtration and dried to give 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline (19 g) which was used without further purification; NMR: (DMSOd6) 3.97 (s, 3H), 7.22 (s, 1H), 7.39 (d, 1H), 7.53 (m, 2H), 7.67 (m, 1H), 8.46 (s, 1H).

reactant | 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 23 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C22H16ClFN2O3
reactant | trifluoroacetic acid | 150 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-(4-chloro-2-fluorophenoxy)-7-hydroxy-6-methoxyquinazoline | 19 g | ClC1=CC(=C(OC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H10ClFN2O3
